US04551460
A mixture of 4.0 g of potassium cyanide, 0.85 g of potassium iodide and 10.1 g of 6-(3-pyridyl)hexyl chloride in 100 ml of dimethylformamide was heated at 100° C. overnight. The reaction mixture was diluted with 200 ml of water and was extracted with dichloromethane. The combined organic layers were washed with water, dried over potassium carbonate and were evaporated. The residue was distilled to give 8.1 g (84%) of 3-pyridine heptanenitrile.

reactant | potassium cyanide | 4.0 g | [C-]#N.[K+]
reactant | potassium iodide | 0.85 g | [I-].[K+]
reactant | 6-(3-pyridyl)hexyl chloride | 10.1 g | N1=CC(=CC=C1)CCCCCCCl | C11H16ClN
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-pyridine heptanenitrile | 8.1 g, 84% | N1=CC(=CC=C1)CCCCCCC#N | C12H16N2
